US06350749B1
In dimethylformamide (10 ml) was suspended 60% sodium hydride (0.39 g, washed with hexane thrice), and to the suspension was added 5-(2,4-difluorophenyl)cyclohexane-1,3-dione (2.0 g) and then was added chloroacetone (0.83 g). The mixture was stirred at room temperature for 1 hour and then at 150° C. for 12 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane). The resulting crystals were recrystallized from hexane to give colorless crystals of 6-(2,4-difluorophenyl)-3-methyl-4,5,6,7-tetrahydrobenzofuran-4-one (0.13 g).

reactant | sodium hydride | 0.39 g | [H-].[Na+]
reactant | 5-(2,4-difluorophenyl)cyclohexane-1,3-dione | 2.0 g | FC1=C(C=CC(=C1)F)C1CC(CC(C1)=O)=O | C12H10F2O2
reactant | chloroacetone | 0.83 g | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-(2,4-difluorophenyl)-3-methyl-4,5,6,7-tetrahydrobenzofuran-4-one | 0.13 g | FC1=C(C=CC(=C1)F)C1CC2=C(C(=CO2)C)C(C1)=O | C15H12F2O2
